US04016212
In a 50 ml. one-neck flask was placed 5.5 g. (0.0422 mol.) of 1,1-dimethoxy-3-methyl-2-butene and 10.0 g. (0.116 mol.) of prenol and 0.40 g. (0.002 mol.) of 2,4-dinitrophenol. The resulting solution was degassed with nitrogen and sealed with a serum cap and stirred at room temperature for 76 hours. The reaction solution was then diluted with 100 ml. of hexane and washed with 3 × 100 ml. of 1.0 N aqueous NaOH solution and 2 × 100 ml. of saturated aqueous NaCl solution. The combined water washings were back with extracted 1 × 50 ml. of hexane. The combined hexane solutions were dried (Na2SO4) and concentrated to give 9.0 g. of crude product. Distillation of 8.3 g. at 20 mmHg and a bath temperature of 55°-60° gave 1.48 g. of prenol. Continued distillation initially at 0.20 mmHg gave 2.43 g. of 1-methoxy-1-(3-methylbut-2-enoxy)-3-methyl-2-butene (b.p. 40°-45° at 0.20 mmHg) and finally at 0.050 mmHg gave 3.29 g. of 1,1-bis-(3-methylbut-2-enoxy)-3-methylbut-2-ene (b.p. 70°-75° at 0.050 mmHg).

reactant | 1,1-dimethoxy-3-methyl-2-butene | 0.0422 mol | COC(C=C(C)C)OC | C7H14O2
reactant | 3-methyl-but-2-en-1-ol | 0.116 mol | CC(=CCO)C | C5H10O
reactant | 2,4-dinitrophenol | 0.002 mol | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
product | 1-methoxy-1-(3-methylbut-2-enoxy)-3-methyl-2-butene | COC(C=C(C)C)OCC=C(C)C | C11H20O2
